US05021428
(4-Methoxyphenyl)1-(2-phenylethyl)-4-piperidinyl]-methanone HCl. A reaction mixture containing 4-(methoxyphenyl)(4-piperidinyl)methanone (10.3 g, 0.047 mol), 2-bromoethylbenzene (9.57 g, 0.052 mol, 7.1 ml) and K2CO3 (15.2 g, 0.11 mol) in dry DMF (100 ml) was stirred at 90° for 65 h. The cooled reaction mixture was poured into H2O (500 ml) and extracted with toluene (3×100 ml). The extracts were washed with H2O, saturated aqueous NaCl solution and dried over MgSO4. The mixture was filtered and the filtrate concentrated to a residue which was triturated with hexane and filtered. The resulting precipitate (0.022 mol) was dissolved in dry Et2O and treated with a solution of HCl (0.022 mol) in CH3OH/EtOAc (2:5, 14 ml) to give a precipitate which was twice recrystallized from EtOH/Et2O, to give (4-methoxyphenyl)[1-(2-phenylethyl)-4-piperidinyl]-methanone hydrochloride, mp 238.5°-239.5° C.

reactant | methanone HCl | Cl.C=O
reactant | 4-(methoxyphenyl)(4-piperidinyl)methanone | 0.047 mol, 10.3 g | COC1=C(C=CC=C1)C1(CCNCC1)C=O | C13H17NO2
reactant | 2-bromoethylbenzene | 0.052 mol, 7.1 ml, 9.57 g | BrCCC1=CC=CC=C1 | C8H9Br
reactant | K2CO3 | 0.11 mol, 15.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 0.022 mol | Cl | ClH
reactant | H2O | 500 ml | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | Et2O | CCOCC | C4H10O
solvent | CH3OH EtOAc | 14 ml | CO.CCOC(=O)C
product | (4-methoxyphenyl)[1-(2-phenylethyl)-4-piperidinyl]-methanone hydrochloride | Cl.COC1=CC=C(C=C1)C(=O)C1CCN(CC1)CCC1=CC=CC=C1 | InChI=1S/C21H25NO2.ClH/c1-24-20-9-7-18(8-10-20)21(23)19-12-15-22(16-13-19)14-11-17-5-3-2-4-6-17;/h2-10,19H,11-16H2,1H3;1H
